US08067457B2
N-(2-{[(3R)-1-(1-{4-[(methylamino)carbonyl]phenyl}piperidin-4-yl)pyrrolidin-3-yl]amino}-2-oxoethyl)-3-(trifluoromethyl)benzamide (25)
The title compound was synthesized in similar fashion to N,N-dimethyl-4-(4-{(3R)-3-[({[3-(trifluoromethyl)benzoyl]amino}acetyl)amino]pyrrolidin-1-yl}piperidin-1-yl)benzamide, substituting methylamine for dimethylamine, and was isolated as a white solid. 1H-NMR (CD3OD) δ: 1.42-1.62 (m, 2H), 1.64-1.78 (m, 1H), 1.93-2.08 (m, 2H), 2.20-2.38 (m, 2H), 2.55-2.65 (m, 2H), 2.80-2.95 (m, 7H), 3.28-3.32 (m, 2H), 3.35 (s, 1H), 3.81-3.92 (m, 2H), 4.02 (s, 2H), 4.35-4.44 (m, 1H), 6.96 (d, J=9.0 Hz, 2H), 7.68 (t, J=7.5 Hz, 1H), 7.69 (d, J=8.7 Hz, 2H), 7.86 (d, J=8.1 Hz, 1H), 8.14 (d, J=8.1 Hz, 1H), 8.21 (s, 1H). MS m/z: 532 (M+1).

reactant | N,N-dimethyl-4-(4-{(3R)-3-[({[3-(trifluoromethyl)benzoyl]amino}acetyl)amino]pyrrolidin-1-yl}piperidin-1-yl)benzamide | CN(C(C1=CC=C(C=C1)N1CCC(CC1)N1C[C@@H](CC1)NC(CNC(C1=CC(=CC=C1)C(F)(F)F)=O)=O)=O)C | C28H34F3N5O3
reactant | dimethylamine | CNC | C2H7N
product | N-(2-{[(3R)-1-(1-{4-[(methylamino)carbonyl]phenyl}piperidin-4-yl)pyrrolidin-3-yl]amino}-2-oxoethyl)-3-(trifluoromethyl)benzamide | CNC(=O)C1=CC=C(C=C1)N1CCC(CC1)N1C[C@@H](CC1)NC(CNC(C1=CC(=CC=C1)C(F)(F)F)=O)=O | C27H32F3N5O3
